US06225311B1
A solution of 0.958 g (2.0 mmol) of methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(methyl)amino]-5-iodopentanoate, 0.35 g (2.4 mmol) of 4-chlorobenzenethiol, and 0.323 g of diisopropylethylamine in 50 ml of isopropyl alcohol was stirred at room temperature for 18 hours. Evaporation of solvent gave 0.8 g of methyl 2-[{[4-(2-butynyloxy)-phenyl]sulfonyl}-(methyl)amino]-5-[(4-chlorophenyl)sulfanyl]-pentanoate as colorless crystals, mp 88-89° C., Electrospray Mass Spec 496.1 (M+H)+

reactant | methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(methyl)amino]-5-iodopentanoate | 2.0 mmol, 0.958 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)CCCI)C | C17H22INO5S
reactant | 4-chlorobenzenethiol | 2.4 mmol, 0.35 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | diisopropylethylamine | 0.323 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | methyl 2-[{[4-(2-butynyloxy)-phenyl]sulfonyl}-(methyl)amino]-5-[(4-chlorophenyl)sulfanyl]-pentanoate | 0.8 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)CCCSC1=CC=C(C=C1)Cl)C | C23H26ClNO5S2
